Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fevers/dysuria
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ ___ speaking female w/ PMH of HTN and diet-controlled 
DM who presents with fevers. She initially presented to her 
PCP's office on ___ with dysuria and hematuria, as well as 
lower abdominal and b/l back pain. She was diagnosed with UTI 
and prescribed cipro. However, UCx was positive for E. coli and 
resistant to cipro and bactrim. She was switched to cefpodoxime 
on ___, however she did not get this message. She was seen in 
the ED the next day for ongoing fevers and suprapubic pain. WBC 
was 14.6. SHe was given IV fluids and IV CTX. She was then 
discharged with cefpodoxime x7 days and seen by her PCP ___ ___ 
for follow up. She reported ongoing daily fevers (with Tm 102) 
despite cefpodoxime. Repeat labs were checked as well as CT A/P. 
Labs showed WBC 12.5, normal Chem 7, UA with neg nitrites, 9 
WBC, few bacteria. UCx negative. CT A/P showed b/l acute 
pyelonephritis and regional RP LAD. She as sent to the ED by her 
PCP.  
 In the ED, initial vitals were:  
 98.2 91 142/66 16 99% RA  
 - Exam notable for: diffuse mild abdominal tenderness, no r/g  
 - Labs notable for: WBC 12.5, plt 458, lactate 2.3. UA with 7 
WBC, neg nitrites, trace leuks  
 - Imaging: CXR with probable bibasilar atelectasis  
 Patient was given: 1g CTX and 1L LR  
 
 On the floor, patient states that her last fever was 2 nights 
ago. She states that she has no pain anywhere in her body. No 
dysuria. She continues to have urinary frequency. She states 
that she initially had some nausea, but this has resolved. She 
also states that she feels fatigued and tired. No CP, abdominal 
pain, SOB, constipation, diarrhea.  
 

 
Past Medical History:
 HTN  
 DM - diet controlled, ___ A1c 6.3  
 osteopenia  
 adenomyimatosis  
 
Social History:
___
Family History:
mother: colon cancer  
 brother: stomach cancer  
 
 
Physical Exam:
Vital Signs: 98.1, 144/78, 77, 18, 93/RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, dry MM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: crackles in L base, otherwise clear  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding. no suprapubic 
tenderness.  
 Back: No CVA tenderness  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: AOX3, grossly intact  

Discharge
-----------------
Vitals: 98.5
PO 154 / 87 76 20 93 RA 
Exam:  
GENERAL - Alert, interactive, well-appearing in NAD  
HEENT - PERRLA, EOMI, sclerae anicteric, MMM, OP clear,  
HEART - RRR, nl S1-S2, no MRG  
LUNGS - CTAB  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM  
EXTREMITIES - WWP, no c/c, no edema, 2+ peripheral pulses  
NEURO - awake, A&Ox3, CNs II-XII grossly intact  
 
Pertinent Results:
Admission
-------------

___ 06:09PM   LACTATE-2.3*
___ 05:40PM   GLUCOSE-123* UREA N-18 CREAT-0.9 SODIUM-142 
POTASSIUM-4.3 CHLORIDE-100 TOTAL CO2-26 ANION GAP-20
___ 05:40PM   estGFR-Using this
___ 05:40PM   LIPASE-38
___ 05:40PM   CALCIUM-9.7 PHOSPHATE-4.0 MAGNESIUM-1.9
___ 05:40PM   WBC-12.5* RBC-3.75* HGB-12.5 HCT-38.1 
MCV-102* MCH-33.3* MCHC-32.8 RDW-12.6 RDWSD-47.8*
___ 05:40PM   NEUTS-65.9 ___ MONOS-5.2 EOS-1.4 
BASOS-0.5 IM ___ AbsNeut-8.24* AbsLymp-3.23 AbsMono-0.65 
AbsEos-0.17 AbsBaso-0.06
___ 05:40PM   PLT COUNT-458*
___ 04:20PM URINE  HOURS-RANDOM
___ 04:20PM URINE  UHOLD-HOLD
___ 04:20PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 04:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-TR
___ 04:20PM URINE  RBC-1 WBC-7* BACTERIA-FEW YEAST-NONE 
EPI-<1 TRANS EPI-<1
___ 04:20PM URINE  HYALINE-1*
___ 04:20PM URINE  MUCOUS-RARE

Discharge
--------------

___ 06:28AM BLOOD WBC-9.7 RBC-3.40* Hgb-11.5 Hct-34.3 
MCV-101* MCH-33.8* MCHC-33.5 RDW-12.8 RDWSD-47.8* Plt ___
___ 06:28AM BLOOD Plt ___
___ 06:28AM BLOOD Glucose-117* UreaN-12 Creat-0.7 Na-143 
K-3.7 Cl-106 HCO3-23 AnGap-18
___ 06:28AM BLOOD Calcium-8.7 Phos-4.0 Mg-1.___ with a PMHx of HTN, recently diagnosed UTI who presents 
with fevers from home, leukocytosis, and recent CT A/P 
concerning for ongoing acute pyelonephritis and failing outpt 
therapy. ___ was treated with IV CTX for 48 hours with 
resolution of her leukocytosis and fevers. She does not require 
any services and by hospital day 2 she was ready to return home. 
She tolerated orals without nausea/vomiting and discharged on 
Cefpodoxime at 200 mg BID for a 14 day total course. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 50 mg PO BID 
2. Metoprolol Tartrate 25 mg PO BID 
3. amLODIPine 2.5 mg PO DAILY 
4. Calcium Carbonate 1500 mg PO BID 
5. Vitamin D 400 UNIT PO DAILY 
6. Cefpodoxime Proxetil 100 mg PO Q12H 

 
Discharge Medications:
1.  Cefpodoxime Proxetil 200 mg PO Q12H Duration: 10 Days 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth twice a day Disp 
#*20 Tablet Refills:*0 
2.  amLODIPine 2.5 mg PO DAILY  
3.  Calcium Carbonate 1500 mg PO BID  
4.  Losartan Potassium 50 mg PO BID  
5.  Metoprolol Tartrate 25 mg PO BID  
6.  Vitamin D 400 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pyelonephritis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital for infection in your kidneys 
that required IV antibiotics. You are being discharged to 
complete a 14 day total course. We wish you all the best,
Your ___ Team. 
 
Followup Instructions:
___